US05679696
A solution of N-(2,6-dichloro-4-nitrophenyl)-3-cyclopentyloxy-4-methoxybenzamide (1.5 g; that is prepared as described in Example 8) in glacial acetic acid (22 mL) is treated with iron pin dust (1.3 g) and the mixture is heated with stirring at 90° C. for 1 hour. The reaction mixture is cooled, basified to pH 8 by treatment with saturated aqueous sodium carbonate solution, and extracted with ethyl acetate (2×150 mL). The combined organic extract is dried over magnesium sulfate and concentrated in vacuo, to give a white solid. This solid is subjected to flash chromatography, eluting with a mixture of ethyl acetate and pentane (1:1 v/v), to give N-(2,6-dichloro-4-aminophenyl)-3-cyclopentyloxy-4-methoxybenzamide (0.8 g), m.p. 170°-172° C. [Elemental analysis: C,54.8; H,5.04; N,6.5; Cl,17.4%; calculated: C,57.7; H,5.1; N,7.1; Cl,17.9%].

reactant | N-(2,6-dichloro-4-nitrophenyl)-3-cyclopentyloxy-4-methoxybenzamide | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C19H18Cl2N2O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 22 mL | C(C)(=O)O | C2H4O2
catalyst | iron | [Fe] | Fe
product | N-(2,6-dichloro-4-aminophenyl)-3-cyclopentyloxy-4-methoxybenzamide | 0.8 g | ClC1=C(C(=CC(=C1)N)Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C19H20Cl2N2O3
